### PR TITLE
feat(LinearAlgebra/{ExteriorPower,LinearIndependent,TensorPower}): define the exterior powers of a module and prove some of their basic properties

### PR DESCRIPTION
**Pull request by smorel394**
This introduces the exterior powers of a module and proves some of their basic properties, in `LinearAlgebra/ExteriorPower/Basic.lean` and `LinearAlgebra/ExteriorPower/Generators.lean`. It also adds a lemma in `LinearAlgebra/LinearIndependent.lean` (`linearIndependent_of_dualFamily` : if a family of vectors admits a "dual" family of linear forms, then it is linearly independent) and a construction in `LinearAlgebra/TensorPower.lean` (`linearFormOfFamily` : the linear form on the tensor power of `M` obtained by multiplying a family of linear forms on `M`).

# Main definitions

## In `LinearAlgebra/ExteriorPower/Basic.lean`:

* `ExteriorPower R n M` is the `n`th exterior power of a `R`-module `M`, defined as `LinearMap.range (ExteriorAlgebra.ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n`. We also introduce the notation `Λ[R]^n M` for `ExteriorPower R n M`.

* `ExteriorPower.ιMulti` is the canonical alternating map on `M` with values in `Λ[R]^n M`.

* `ExteriorPower.map`: functoriality of exterior powers with respect to linear maps between modules.

* `ExteriorPower.toTensorPower`: linear map from the `n`th exterior power to the `n`th
tensor power (coming from `MultilinearMap.alternatization` via the universal property of
exterior powers).

## In `LinearAlgebra/ExteriorPower/Generators.lean`:

* `ExteriorPower.BasisOfBasis`: If `b` is a basis of `M` (indexed by a linearly ordered type),
the basis of the `n`th exterior power of `M` formed by the `n`-fold exterior products of elements
of `b`.

# Main theorems

## In `LinearAlgebra/ExteriorPower/Basic.lean`:

* The image of `ExteriorPower.ιMulti` spans `Λ[R]^n M`.

* `ExteriorPower.liftAlternatingEquiv` (universal property of the `n`th exterior power of `M`):
the linear equivalence between linear maps from `Λ[R]^n M` to a module `N` and `n`-fold
alternating maps from `M` to `N`.

* `ExteriorPower.map_injective_field`: If `f : M →ₗ[R] N` is injective and `R` is a field, then
`ExteriorPower.map n f` is injective.

* `ExteriorPower.map_surjective`: If `f : M →ₗ[R] N` is surjective, then `ExteriorPower.map n f`
is surjective.

* `ExteriorPower.mem_exteriorPower_is_mem_finite`: Every element of `Λ[R]^n M` is in the image of
`Λ[R]^n P` for some finitely generated submodule `P` of `M`.

## In `LinearAlgebra/ExteriorPower/Generators.lean`:

* `ExteriorPower.Finite`: The `n`th exterior power of a finite module is a finite module.

* `ExteriorPower.span_top_of_span_top` and `ExteriorPower.span_top_of_span_top'`: If a family of
vectors spans `M`, then the family of its `n`-fold exterior products spans `Λ[R]^n M`. (We give
versions in the exterior algebra and in the exterior power.)

* `ExteriorPower.FreeOfFree`: If `M` is a free module, then so is its `n`th exterior power.

* `ExteriorPower.FinrankOfFiniteFree`: If `R` satisfies the strong rank condition and `M` is
finite free of rank `r`, then the `n`th exterior power of `M` is of finrank `Nat.choose r n`.

* `ExteriorPower.ιMulti_family_linearIndependent_field`: If `R` is a field, and if `v` is a
linearly independent family of vectors (indexed by a linearly ordered type), then the family of
its `n`-fold exterior products is also linearly independent.

- [x] depends on: #10744 
- [ ] depends on: #11156
- [x] depends on: #18590

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,427 @@
...
+variable {R : Type u}{n : ℕ} {M : Type uM} {N : Type uN} {N' : Type uN'} {N'' : Type uN''}
+  [CommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N] [AddCommGroup N']
+  [Module R N'] [AddCommGroup N''] [Module R N'']
+
+variable {K : Type v} {E : Type uE} {F: Type uF} [Field K] [AddCommGroup E] [Module K E]
+  [AddCommGroup F] [Module K F]
+
+variable (R M n)
+
+/--Definition of the `n`th exterior power of a `R`-module `M`. We introduce the notation
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:64]:
```suggestion
/-- Definition of the `n`th exterior power of a `R`-module `M`. We introduce the notation
```

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 2]
```diff
@@ -0,0 +1,381 @@
...
+  conv_lhs => rw [← BasisOfBasis_apply]
+  by_cases heq : s = t
+  · have heq' : (⟨s, hs⟩ : {s : Finset I // Finset.card s = n}) = ⟨t, ht⟩ := by
+      simp only [Subtype.mk.injEq]; exact heq
+    simp only [← heq', linearFormOfBasis_apply_diag, Basis.coord_apply, Basis.repr_self,
+      Finsupp.single_eq_same]
+  · simp only [linearFormOfBasis_apply_nondiag R n b hs ht heq, Basis.coord_apply,
+      Basis.repr_self_apply, Subtype.mk.injEq, Ne.symm heq, ite_false]
+
+/-! Freeness and dimension of `Λ[R]^n M. -/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:329]:
```suggestion
/-! ### Freeness and dimension of `Λ[R]^n M. -/
```
or
```suggestion
/-! #### Freeness and dimension of `Λ[R]^n M. -/
```
depending on whether you want it to be displayed as a subsubheader or a subsubsubheader in the docs.

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,427 @@
...
+`Λ[R]^n M` for `ExteriorPower R n M`. -/
+@[reducible]
+def ExteriorPower := (LinearMap.range (ExteriorAlgebra.ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n)
+
+@[inherit_doc]
+notation:100 "Λ[" R "]^" n:arg => ExteriorPower R n
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:70]: I think `(LinearMap.range (ExteriorAlgebra.ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n)` is already used quite a lot throughout mathlib; can you split out a PR that just adds this new `def` and notation, and replaces all the existing uses with the new notation?

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,427 @@
...
+/-! The universal property of the `n`th exterior power of `M`: linear maps from
+`Λ[R]^n M` to a module `N` are in linear equivalence with `n`-fold alternating maps from
+`M` to `N`. -/
+
+variable {R}
+
+/-- Auxiliary construction for the definition of `ExteriorPower.liftAlternating`. -/
+def liftAlternating_aux : (AlternatingMap R M N (Fin n)) →ₗ[R]
+    ((i : ℕ) → AlternatingMap R M N (Fin i)) :=
+  LinearMap.pi (fun i ↦ if h : i = n then by rw [h]; exact LinearMap.id else 0)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:132]: I think it would be better to use `Pi.single` here, to avoid the `rw`.

Though looking again: is this just `LinearMap.single n`?

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,427 @@
...
+@[simp]
+lemma liftAlternatingEquiv_symm_apply (F : (Λ[R]^n) M →ₗ[R] N) (m : Fin n → M) :
+    (ExteriorPower.liftAlternatingEquiv R n).symm F m = F.compAlternatingMap (ιMulti R n) m := rfl
+
+/-! Functoriality of the exterior powers. -/
+
+variable {R}
+
+/-- The linear map between `n`th exterior powers induced by a linear map between the modules. -/
+def map (f : M →ₗ[R] N) : (Λ[R]^n) M →ₗ[R] (Λ[R]^n) N := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:211]: Doesn't this follow directly as an application of `liftAlternating`?

**Comment by mattrobball** [comment]
!bench

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 6]
```diff
@@ -0,0 +1,381 @@
...
+  [AddCommGroup F] [Module K F]
+
+open BigOperators
+
+namespace ExteriorPower
+
+/-! Finiteness of the exterior power. -/
+
+/-- The `n`th exterior power of a finite module is a finite module. -/
+theorem Finite [Module.Finite R M]: Module.Finite R ((Λ[R]^n) M) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:55]:
```suggestion
theorem finite [Module.Finite R M]: Module.Finite R ((Λ[R]^n) M) :=
```

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 7]
```diff
@@ -0,0 +1,381 @@
...
+  simp only [Finset.coe_orderIsoOfFin_apply, LinearMap.map_smul_of_tower,
+    TensorPower.linearFormOfFamily_apply_tprod, Basis.coord_apply, Basis.repr_self, ne_eq,
+    RelEmbedding.inj, Finset.sum_singleton, Equiv.Perm.sign_refl, Equiv.refl_apply,
+    Finsupp.single_eq_same, Finset.prod_const_one, one_smul] at heq ⊢
+  rw [← heq]
+
+lemma linearFormOfBasis_apply_nondiag_aux {I : Type*} [LinearOrder I] {s t : Finset I}
+    (hs : Finset.card s = n) (ht : Finset.card t = n) (hst : s ≠ t) (σ : Equiv.Perm (Fin n)) :
+    ∃ (i : Fin n), (Finset.orderIsoOfFin s hs i).1 ≠ (Finset.orderIsoOfFin t ht (σ i)).1 := by
+  by_contra habs
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:250]:
```suggestion
  by_contra! habs
```

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:211]: Yes, this is `liftAlternating _ <| AlternatingMap.compLinearMap (ιMulti _ _) f`

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean]: I went ahead and pushed this in 9a527a7d50bb778bae21f62425070c569ea031e6, hope that's ok; feel free to revert if not.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean]: Yes, of course that's okay, thanks !

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean]: Yes, it is just `LinearMap.single` ! Oops. I remove `liftAlternating_aux` since it just makes things more cumbersome.

File: Mathlib/LinearAlgebra/ExteriorPower/Basic.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:70]: Can do. Given that this expression already appears in `LinearAlgebra/ExteriorAlgebra/Basic.lean`, I guess it would make sense to introduce `ExteriorPower` there already.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:70]: It's maybe worth waiting to see what Zulip says about the type of this expression, Right now Lean is inferring
```suggestion
`Λ[R]^n M` for `ExteriorPower R n M`. -/
@[reducible]
def ExteriorPower : Submodule R M :=
  (LinearMap.range (ExteriorAlgebra.ι R : M →ₗ[R] ExteriorAlgebra R M) ^ n)

@[inherit_doc]
notation:100 "Λ[" R "]^" n:arg => ExteriorPower R n
```
but this goes against the naming convention, since `ExteriorPower` is not a type.

Either we should make it a type (in which case it won't actually work as a substitute in a handful of places), or we should rename it to `exteriorPower`.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean:70]: Right, I am actually using that it's a submodule of the exterior algebra in a few places. Anyway, I started a new branch that defined `ExteriorPower` earlier and started substituting it [there](https://github.com/leanprover-community/mathlib4/tree/SM.ExteriorPowerDef), and it's creating timeouts in `ExteriorAlgebra/Grading.lean`. I need to play around with it more to see if I can figure out what happened.

Comment (smorel394) [reply Mathlib/LinearAlgebra/ExteriorPower/Basic.lean]: Okay, I changed all the `ExteriorPower`s to `exteriorPower`s and created PR #10744 to introduce the definition and notation. (But it does have that annoying instance synthesization problem.)

File: Mathlib/LinearAlgebra/TensorPower.lean [hunk 8]
```diff
@@ -299,4 +299,21 @@ theorem galgebra_toFun_def (r : R) :
 
 example : Algebra R (⨁ n : ℕ, ⨂[R]^n M) := by infer_instance
 
+variable (n : ℕ)
+
+variable (R)
+
+/-- A family `f` of linear forms on `M` indexed by `Fin n` defines a linear form on
+`⨂[R]^n M`, by multiplying the components of `f`. -/
+noncomputable def linearFormOfFamily (f : (_ : Fin n) → (M →ₗ[R] R)) : (⨂[R]^n) M →ₗ[R] R :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorPower.lean:308]:
```suggestion
noncomputable def linearFormOfFamily (f : (_ : Fin n) → Module.Dual R M) : Module.Dual R (⨂[R]^n M) :=
```

I think this holds more generally for the n-ary tensor products, rather than just tensor powers; can you add that definition instead?

Comment (smorel394) [reply Mathlib/LinearAlgebra/TensorPower.lean]: I don't think that it should make it more complicated, so I'll try.
You suggested having a name that contains `dual` instead of `linearFormOfFamily`, and I'm not against that, but I don't feel very inspired.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorPower.lean]: [`TensorProduct.dualDistrib`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual.html#TensorProduct.dualDistrib) seems pretty close; ideally we would bundle this map slightly further, and use the same name.

Comment (smorel394) [reply Mathlib/LinearAlgebra/TensorPower.lean]: You're right, my `linearFormOfFamily` is basically `PiTensorProduct.dualDistrib` applied to the case of a constant family. `PiTensorProduct.dualDistrib` doesn't exist yet, but I'll get to work on it. 
I don't know if you were also suggesting to unify the case of the tensor product of two modules and that of the tensor product of a finite family of modules; if so, I don't know how to do that.

Comment (smorel394) [reply Mathlib/LinearAlgebra/TensorPower.lean]: I started working in [a new branch](https://github.com/leanprovercommunity/mathlib4/tree/SM.PiTensorProduct). Let's hope this doesn't grow too large.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorPower.lean]: > I don't know if you were also suggesting to unify the case of the tensor product of two modules and that of the tensor product of a finite family of modules; if so, I don't know how to do that.


No, I am certainly not suggesting this! Just that we should try to match the names of the AP

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorPower.lean]: > I started working in [a new branch](https://github.com/leanprovercommunity/mathlib4/tree/SM.PiTensorProduct). Let's hope this doesn't grow too large.

It looks like you haven't pushed this branch yet.

Comment (smorel394) [reply Mathlib/LinearAlgebra/TensorPower.lean]: I did push it, but I didn't create a PR yet.

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 9]
```diff
@@ -0,0 +1,381 @@
...
+open BigOperators
+
+namespace exteriorPower
+
+/-! Finiteness of the exterior power. -/
+
+/-- The `n`th exterior power of a finite module is a finite module. -/
+theorem finite [Module.Finite R M]: Module.Finite R (⋀[R]^n M) :=
+  Module.Finite.mk ((Submodule.fg_top _).mpr (Submodule.FG.pow (by
+  rw [LinearMap.range_eq_map]; exact Submodule.FG.map _  (Module.finite_def.mp inferInstance)) _ ))
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:57]:
```suggestion
instance instFinite [Module.Finite R M]: Module.Finite R (⋀[R]^n M) :=
  Module.Finite.mk ((Submodule.fg_top _).mpr (Submodule.FG.pow (by
  rw [LinearMap.range_eq_map]; exact Submodule.FG.map _  (Module.finite_def.mp inferInstance)) _ ))
```

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 10]
```diff
@@ -0,0 +1,381 @@
...
+    LinearIndependent R (ιMulti_family R n b) :=
+  linearIndependent_of_dualFamily _ (fun s => linearFormOfBasis R n b s.2)
+  (fun ⟨_, _⟩ ⟨_, _⟩ hst ↦
+  by simp only [ne_eq, Subtype.mk.injEq] at hst; simp only [Function.comp_apply]
+     exact linearFormOfBasis_apply_nondiag _ _ _ _ _ hst)
+  (fun ⟨_, _⟩ ↦ by simp only [Function.comp_apply]; apply linearFormOfBasis_apply_diag)
+
+/-- If `b` is a basis of `M` (indexed by a linearly ordered type), the basis of the `n`th
+exterior power of `M` formed by the `n`-fold exterior products of elements of `b`. -/
+noncomputable def BasisOfBasis {I : Type*} [LinearOrder I] (b : Basis I R M) :
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:295]:
```suggestion
noncomputable def basisOfBasis {I : Type*} [LinearOrder I] (b : Basis I R M) :
```
and throughout

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 11]
```diff
@@ -0,0 +1,381 @@
...
+    Basis {s : Finset I // Finset.card s = n} R (⋀[R]^n M) :=
+  Basis.mk (v := ιMulti_family R n b) (ιMulti_family_linearIndependent_ofBasis _ _ _)
+  (by rw [span_top_of_span_top']; rw [Basis.span_eq])
+
+@[simp]
+lemma BasisOfBasis_coe {I : Type*} [LinearOrder I] (b : Basis I R M) :
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:301]:
```suggestion
lemma coe_basisOfBasis {I : Type*} [LinearOrder I] (b : Basis I R M) :
```
and throughout

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 12]
```diff
@@ -0,0 +1,381 @@
...
+  · simp only [linearFormOfBasis_apply_nondiag R n b hs ht heq, Basis.coord_apply,
+      Basis.repr_self_apply, Subtype.mk.injEq, Ne.symm heq, ite_false]
+
+/-! ### Freeness and dimension of `⋀[R]^n M. -/
+
+/-- If `M` is a free module, then so is its `n`th exterior power. -/
+lemma FreeOfFree (hfree : Module.Free R M) : Module.Free R (⋀[R]^n M) :=
+  let ⟨I, b⟩ := (Classical.choice hfree.exists_basis)
+  letI := WellFounded.wellOrderExtension (emptyWf (α := I)).wf
+  Module.Free.of_basis (BasisOfBasis R n b)
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:335]:
```suggestion
instance instFree [hfree : Module.Free R M] : Module.Free R (⋀[R]^n M) :=
  let ⟨I, b⟩ := hfree.exists_basis
  letI := WellFounded.wellOrderExtension (emptyWf (α := I)).wf
  Module.Free.of_basis (basisOfBasis R n b)
```

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 13]
```diff
@@ -0,0 +1,381 @@
...
+    (W.subtype) (by rw [← h]; exact hv)) hv'span) := by simp only [BasisOfBasis_coe, Basis.coe_mk]
+  rw [heq]
+  apply Basis.linearIndependent
+
+lemma nonemptyOfNonempty {I : Type*} [LinearOrder I]
+    (hne : Nonempty {v : I → E // LinearIndependent K v}) :
+    Nonempty {v : {s : Finset I // Finset.card s = n} →
+    (⋀[K]^n) E // LinearIndependent K v} :=
+  let v := Classical.choice hne
+  Nonempty.intro ⟨ιMulti_family K n v, ιMulti_family_linearIndependent_field n v.2⟩
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:379]:
```suggestion
instance instNonempty {I : Type*} [LinearOrder I] [Nonempty {v : I → E // LinearIndependent K v}] :
    Nonempty {v : {s : Finset I // Finset.card s = n} → (⋀[K]^n) E // LinearIndependent K v} :=
  Nonempty.map (fun v : {v : I → E // LinearIndependent K v} =>
    ⟨ιMulti_family K n v, ιMulti_family_linearIndependent_field n v.2⟩) ‹_›
```

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean [hunk 14]
```diff
@@ -0,0 +1,381 @@
...
+
+/-- If `R` satisfies the strong rank condition and `M` is finite free of rank `r`, then
+the `n`th exterior power of `M` is of finrank `Nat.choose r n`. -/
+lemma FinrankOfFiniteFree (hfree : Module.Free R M) [Module.Finite R M] :
+    FiniteDimensional.finrank R (⋀[R]^n M) =
+    Nat.choose (FiniteDimensional.finrank R M) n :=
+  letI := WellFounded.wellOrderExtension (emptyWf (α := hfree.ChooseBasisIndex)).wf
+  let B :=  BasisOfBasis R n (hfree.chooseBasis)
+  by rw [FiniteDimensional.finrank_eq_card_basis hfree.chooseBasis,
+    FiniteDimensional.finrank_eq_card_basis B, Fintype.card_finset_len]
```
Comment (bustercopley) [inline Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:347]:
```suggestion
lemma finrank_eq_of_finite_free [hfree : Module.Free R M] [Module.Finite R M] :
    FiniteDimensional.finrank R (⋀[R]^n M) =
    Nat.choose (FiniteDimensional.finrank R M) n := by
  letI := WellFounded.wellOrderExtension (emptyWf (α := hfree.ChooseBasisIndex)).wf
  let B := basisOfBasis R n hfree.chooseBasis
  rw [FiniteDimensional.finrank_eq_card_basis hfree.chooseBasis,
    FiniteDimensional.finrank_eq_card_basis B, Fintype.card_finset_len]
```
or just `finrank_eq`?

**Review by bustercopley — COMMENTED** [review]
I'm really looking forward to this.

File: Mathlib/LinearAlgebra/ExteriorPower/Generators.lean (hunk 10 above)
Comment (bustercopley) [reply Mathlib/LinearAlgebra/ExteriorPower/Generators.lean:295]: or `_root_.Basis.exteriorPower`?

**Comment by bustercopley** [comment]
I've made those changes, along with a separate golf commit, on branch https://github.com/leanprover-community/mathlib4/commits/RC/ExteriorPower/ . Feel free to use any or all of it if you want.

**Comment by smorel394** [comment]
> I've made those changes, along with a separate golf commit, on branch https://github.com/leanprover-community/mathlib4/commits/RC/ExteriorPower/ . Feel free to use any or all of it if you want.

Thanks ! I'm happy to use all of them, you can make them directly here if you want, otherwise I'll try to get to it this evening.
Sorry, yesterday I was concentrating on the tensor power stuff, generalizing `linearFormOfFamily` as Eric Wieser suggested, and it turns out there's a lot of stuff that is only done for `TensorProduct` and not `PiTensorProduct`, so I was writing some of it.

**Comment by smorel394** [comment]
> > turns out there's a lot of stuff that is only done for `TensorProduct` and not `PiTensorProduct`, so I was writing some of it.
> 
> Don't feel like you have to write _everything_ that's missing, especially not in one go; [the changes in `PiTensorProduct.lean`](https://github.com/leanprover-community/mathlib4/compare/SM.ExteriorPower...SM.PiTensorProduct#diff-b7d0033f4a82efcf1df9b92c82d1a96dff948c4bcfbb6b04e90eb74f1b071c3c) alone would make a good standalone PR, and I think cover most of what you actually need in this one.

I got slightly carried away...
Anyway, I realized that the functoriality of `PiTensorProduct`s (i.e. `PiTensorProduct.map`) had been recently added to mathlib, but there were still some missing features of it, so I added them there: #11152

But I also constructed a basis of the `PiTensorProduct`, and for this proved that it distributes over `DirectSum`s, and... I an preparing the PRs now.

**Comment by smorel394** [comment]
> But I also constructed a basis of the `PiTensorProduct`, and for this proved that it distributes over `DirectSum`s, and... I > an preparing the PRs now.

Here is the PR proving that `PiTensorProduct`s distribute over `DirectSum`s: #11155
The final part is the construct of `PiTensorProduct.dualDistrib` and the proof that finite `PiTensorProduct`s of finite free modules commute with taking duals. I'll PR that if/when CI tells me that the code is okay.

**Comment by joelriou** [comment]
I have started a new (draft) PR #18590 with the results in the beginning of `ExteriorPower.Basic`, until the universal property of the exterior power. Then, I intend to two a second PR for the following section on functoriality (and defining functors `ModuleCat R ⥤ ModuleCat R`).

**Comment by joelriou** [comment]
In the branch https://github.com/leanprover-community/mathlib4/tree/SM.ExteriorPower_jriou I have merged this with master and the two new PRs #18590 and #18596. If there is no objection, I could merge `SM.ExteriorPower_jriou` into this branch `SM.ExteriorPower`.

**Comment by pink10000** [comment]
Any updates on this? My team and I are looking to use `finrank_eq` for our project.
